US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(1-METHYL-1 H-INDOL-6-YL)METHYL]AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 6-formy-1-methylindole to the procedure of step 1, Example 66. MS (ESI) m/z 522.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 6-formy-1-methylindole | C(=O)C1=CC=C2C=CN(C2=C1)C | C10H9NO
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(1-METHYL-1 H-INDOL-6-YL)METHYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C2C=CN(C2=C1)C)C(F)(F)F | C33H26F3N3
